data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
666,726,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:13]([C:14](=[O:15])[NH:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:12]=[C:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,9.877994879899662,-68.78790723659475
5009,5697,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:15][C:16]1([CH3:17])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,12.378858620682369,-44.95881528662464
3001,3353,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][NH+:9]=[N:10][C:11]([CH3:12])=[O:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:10]([C:11]([CH3:12])=[O:13])[NH:9][N:8]1[CH3:7],water,298.15,33.949353414165714,-7.1073122064425895
311,338,[CH2:1]=[CH:2][C:3]([CH3:4])=[O:5].[CH3:6][NH:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[O+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]1[CH:2]([C:3]([CH3:4])=[O:5])[CH:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:13][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:11]#[N:12],water,298.15,17.444088681897334,-37.89108326969501
4067,4658,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([CH3:20])[CH3:21],water,298.15,39.69318300844388,-1.2573130906245291
4319,4940,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,15.131633887315669,-40.25652534609053
1535,1695,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[Br:6].[CH3:7][C:8](=[O:9])[CH-:10][O+:11]=[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([Br:6])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,20.98503973979676,-25.67559300336669
241,264,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([CH3:14])[CH3:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:11]([C:9]([CH3:8])=[O:10])=[N:12][C:13]1([CH3:14])[CH3:15],water,298.15,8.785168346695048,-68.55788399457282
5220,5923,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,51.26460502826425,-0.2470493722603537
4577,5222,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,24.32781340638143,-14.160259829972038
546,596,[CH3:12][O:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[NH+:19][N-:20][C:21]#[N:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:17]#[N:18])[NH:19][N:20]2[C:21]#[N:22],water,298.15,14.995298791602435,-15.71902182174268
2156,2391,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[n+:30]1[CH3:31].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][C:23]2([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[N:30]1[CH3:31],water,298.15,23.024723363006583,-5.028322936626958
